US07071201B2
(81-2-1) cis-1-[1-(4-Fluorophenethyl)-3-acetoxymethyl-piperidin-4-yl]indoline
cis-1-(3-Acetoxymethylpiperidin-4-yl)indoline (280 mg) was dissolved in dimethylformamide (4 ml) and methanol (1 ml). To the resultant solution were added triethylamine (222 mg) and 4-fluorophenethyl bromide (285 mg) followed by stirring at 50° C. for 2 hr. Then the reaction mixture was cooled and water (50 ml) was added thereto. After extracting with ether (50 ml) twice, the organic phase was washed with water (20 ml) twice and a 2 N aqueous solution (50 ml) of sodium hydroxide once and dried over anhydrous magnesium sulfate. Then the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (100 mg) as a colorless oil (yield: 28%).

reactant | cis-1-(3-Acetoxymethylpiperidin-4-yl)indoline | 280 mg | C(C)(=O)OC[C@@H]1CNCC[C@@H]1N1CCC2=CC=CC=C12 | C16H22N2O2
reactant | triethylamine | 222 mg | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenethyl bromide | 285 mg | FC1=CC=C(CCBr)C=C1 | C8H8BrF
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | methanol | 1 ml | CO | CH4O
product | cis-1-[1-(4-Fluorophenethyl)-3-acetoxymethyl-piperidin-4-yl]indoline | 100 mg, yield: 28% | FC1=CC=C(CCN2C[C@H]([C@H](CC2)N2CCC3=CC=CC=C23)COC(C)=O)C=C1 | C24H29FN2O2
